US07384934B2
(S)-8-Chloro-2-methyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine succinate
Dissolve (S)-8-chloro-2-methyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine (0.070 g, 0.18 mmol) in dichloromethane (4 ml). Add sodium triacetoxyborohydride (0.116 g, 0.55 mmol) and formaldehyde (0.011 g, 0.36 mmol, 0.030 g of a 37% aqueous solution) and stir the mixture for two hours at ambient temperature. Dilute the mixture with 15 mL of saturated aqueous sodium chloride and extract three times with dichloromethane. Combine the organic layers, dry over sodium sulfate and remove the solvent under reduced pressure. Purification via flash chromatography, eluting with a mixture of 75% hexanes and 25% chloroform with 5% total volume 2M ammonia in methanol, gives the free base of the title compound (0.039 g, 0.10 mmol, 54% yield) as a yellow amorphous solid. It is then converted to the succinate salt as described previously: Mass Spectrum (m/e): 399(M+1).

reactant | (S)-8-chloro-2-methyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 0.18 mmol, 0.070 g | ClC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C)N3C[C@@H](NCC3)CCOC)C1 | C21H25ClN4O
reactant | sodium triacetoxyborohydride | 0.55 mmol, 0.116 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | C=O | CH2O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | sodium chloride | 15 mL | [Cl-].[Na+]
product | (S)-8-Chloro-2-methyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine succinate | 0.10 mmol, 0.039 g, 54% yield | C(CCC(=O)O)(=O)O.ClC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C)N3C[C@@H](N(CC3)C)CCOC)C1 | InChI=1S/C22H27ClN4O.C4H6O4/c1-15-4-6-19-18(12-15)22(25-21-13-16(23)5-7-20(21)24-19)27-10-9-26(2)17(14-27)8-11-28-3;5-3(6)1-2-4(7)8/h4-7,12-13,17,24H,8-11,14H2,1-3H3;1-2H2,(H,5,6)(H,7,8)/t17-;/m0./s1
